* C:\Users\triim\Desktop\CPE\ESE\PLL_wiz\PLL_Wizard_Python.asc
A§VCO OUT_PFD 0 0 0 0 0 OUT_PLL 0 MODULATOR mark={mark} space ={space}
A§UP_PFD VDD 0 IN 0 N002 0 N001 0 DFLOP
A§DOWN_PFD VDD 0 N005 0 N002 0 N003 0 DFLOP
A4 N001 0 0 0 N003 0 N002 0 AND TD=1p
G1 VDD OUT_PFD N001 0 {Icp}
G2 OUT_PFD 0 N003 0 {Icp}
VIN_ALIM IN 0 SINE(0 1 100000)
V§DC_ALIM VDD 0 3.3
R2 OUT_PFD N004 15084.914720799225
C2 N004 0 5.623988685256453e-09
C1 OUT_PFD 0 4.3536365327808483e-10
A§divider OUT_PLL 0 0 0 0 0 N005 0 COUNTER cycles={cycles}
V1 CONSIGNE 0 PULSE(0 1 0 1n 1n 1s)
* VCO
* Filtre
* PLL Wizard Python
* PFD
* Chaîne de retour
* Tension de référence
* Simulation
.PARAM mark=10909090  ; Batch instruction
.PARAM space=4000000  ; Batch instruction
.PARAM cycles=200.0  ; Batch instruction
.PARAM Icp=0.0001  ; Batch instruction
.tran 0 0.001 0 .01
.meas tran T1_PLL1 find time when V(out_pll)=0 td=0.0005 rise 1
.meas tran T2_PLL1 find time when V(out_pll)=0 td=0.0005 rise 11
.meas tran  Frequency_PLL param 10/(T2_PLL1-T1_PLL1)
.meas tran T1_IN find time when V(in)=0 td=0.0005 rise 1
.meas tran T2_IN find time when V(in)=0 td=0.0005 rise 11
.meas tran  Frequency_IN param 10/(T2_IN-T1_IN)
; no more instructions
.backanno
.end
